US05136868
A stirred mixture of 35.0 g (0.16 mole) of 2,4-dichloro-5-hydroxyacetanilide, 33.1 g (0.24 mole) of potassium carbonate, and 34.1 g (0.24 mole) of methyl iodide in 300 mL of acetone was heated at reflux for approximately 18 hours. The mixture was cooled and filtered. The filtrate was evaporated under reduced pressure to leave 37.4 g of 2,4-dichloro-5-methoxyacetanilide as a solid.

reactant | 2,4-dichloro-5-hydroxyacetanilide | 0.16 mole, 35.0 g | CC(=O)NC1=CC(=C(C=C1Cl)Cl)O | C8H7Cl2NO2
reactant | potassium carbonate | 0.24 mole, 33.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.24 mole, 34.1 g | CI | CH3I
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 2,4-dichloro-5-methoxyacetanilide | 37.4 g | CC(=O)NC1=CC(=C(C=C1Cl)Cl)OC | C9H9Cl2NO2
